US08242145B2
Step 2: (3-{2-[(2-Hydroxy-ethylamino)-methyl]-4-trifluoromethyl-phenoxy}-phenyl)-acetic acid
[3-(2-Formyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid (0.12 g, 0.37 mmol), ethanolamine (0.02 mL, 0.37 mmol), and sodium triacetoxyborohydride (0.12 g, 0.56 mmol) were combined in CH2Cl2 (10 mL) and stilled for 2 hours. After work-up, 0.15 g of the desired product was obtained.

reactant | [3-(2-Formyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid | 0.37 mmol, 0.12 g | C(=O)C1=C(OC=2C=C(C=CC2)CC(=O)O)C=CC(=C1)C(F)(F)F | C16H11F3O4
reactant | ethanolamine | 0.37 mmol, 0.02 mL | C(O)CN | C2H7NO
reactant | sodium triacetoxyborohydride | 0.56 mmol, 0.12 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (3-{2-[(2-Hydroxy-ethylamino)-methyl]-4-trifluoromethyl-phenoxy}-phenyl)-acetic acid | 0.15 g | OCCNCC1=C(OC=2C=C(C=CC2)CC(=O)O)C=CC(=C1)C(F)(F)F | C18H18F3NO4
